US04436748
A mixture of 9.0 g of 6,7-dichloro-2-cyclopentyl-5-hydroxybenzo[b]thiophene, 6.35 g of ethyl bromoacetate, 4.0 g of potassium carbonate and 10 ml of dimethylformamide in 200 ml of 2-butanone is refluxed for 16 hours. The cooled mixture is diluted with water (200 ml), extracted with 3×300 ml-portions of dichloromethane, and the combined organic solution is dried over anhydrous magnesium sulfate. Removal of solvents leaves a colorless oil which crystallizes on cooling to give 8.9 g of ethyl[ (6,7-dichloro-2-cyclopentylbenzo[b]thien-5-yl)oxy]acetate or prisms, mp 65°-67°.

reactant | 6,7-dichloro-2-cyclopentyl-5-hydroxybenzo[b]thiophene | 9.0 g | ClC=1C(=CC2=C(SC(=C2)C2CCCC2)C1Cl)O | C13H12Cl2OS
reactant | ethyl bromoacetate | 6.35 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
solvent | water | 200 ml | O | H2O
product | ethyl[ (6,7-dichloro-2-cyclopentylbenzo[b]thien-5-yl)oxy]acetate | 8.9 g | C(C)OC(COC1=CC2=C(SC(=C2)C2CCCC2)C(=C1Cl)Cl)=O | C17H18Cl2O3S
